US05981533
Under argon, 200 mg of 1-benzyl-4-hydroxy-3-phenylamino-pyrazolo[3,4-d]-pyrimidine are heated under reflux for 5 hours with 2 ml of POCl3, during which time the suspension slowly becomes a solution. The light-brown solution is cooled to room temperature, concentrated to dryness by evaporation and stirred with ice-water. The crude product is filtered off with suction and recrystallized from ethanol/water, yielding fine needles of 1-benzyl-4-chloro-3-phenylamino-pyrazolo[3,4-d]pyrimidine; m.p. 135° C., FAB-MS: (M+H)+ =336 (C18H14ClN5).

reactant | 1-benzyl-4-hydroxy-3-phenylamino-pyrazolo[3,4-d]-pyrimidine | 200 mg | C(C1=CC=CC=C1)N1N=C(C=2C1=NC=NC2O)NC2=CC=CC=C2 | C18H15N5O
reactant | POCl3 | 2 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-benzyl-4-chloro-3-phenylamino-pyrazolo[3,4-d]pyrimidine | C(C1=CC=CC=C1)N1N=C(C=2C1=NC=NC2Cl)NC2=CC=CC=C2 | C18H14ClN5
